US03971797
To a solution of 0.1 mole sodium ethoxide in 500 ml. of ethanol cooled to 10°-20°C. and under nitrogen is added 0.1 mole ethylisothiocyanate. The reaction mixture is stirred for 30 minutes after the addition is completed. There is then added portionwise 0.1 mole of 5-chloromethyl-2,2,8-trimethyl-4H-M-dioxino[4,5-C]-pyridine. The reaction mixture is stirred at room temperature (or refluxed 3 hours) overnight, after which time 200 ml. of 6 N hydrochloric acid is added. The reaction mixture is stirred 5 hours at room temperature, concentrated in vacuo, and the residue taken up between benzene-ether (1:1) and excess saturated sodium bicarbonate. The organic layer is separated, washed well with water, dried and concentrated to give 2-methyl-3-hydroxy-4-hydroxymethyl-5-ethoxycarbonylthiomethylpyridine and hydrochloride salt.

reactant | sodium ethoxide | 0.1 mole | [O-]CC.[Na+]
reactant | ethylisothiocyanate | 0.1 mole | C(C)N=C=S | C3H5NS
reactant | 5-chloromethyl-2,2,8-trimethyl-4H-M-dioxino[4,5-C]-pyridine | 0.1 mole | ClCC1=C2C(=C(N=C1)C)OC(OC2)(C)C | C11H14ClNO2
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 2-methyl-3-hydroxy-4-hydroxymethyl-5-ethoxycarbonylthiomethylpyridine | CC1=NC=C(C(=C1O)CO)CSC(=O)OCC | C11H15NO4S
